US09403839B2
To an oven dried flask was placed 60% sodium hydride in mineral oil (1.5 g, 36 mmol). To the flask was added tetrahydrofuran (90 mL) under a nitrogen atmosphere. The mixture was cooled to 0° C. and a solution of 1-diethoxyphosphorylpropan-2-one (7.1 mL, 37 mmol) in tetrahydrofuran (20 mL) was added dropwise. The mixture was stirred at 25° C. for 30 min and treated with 1-(4-isopropoxy-3-methyl-benzoyl)piperidin-4-one (10 g, 36 mmol) in tetrahydrofuran (90 mL). The mixture was stirred at 25° C. for 24 h. The reaction was quenched with saturated aqueous sodium bicarbonate and extracted with ethyl acetate (3×200 mL). The combined organics were washed with brine, dried over magnesium sulfate and evaporated. The crude product was purified on silica gel utilizing a gradient of 0-30% ethyl acetate in hexanes to afford 1-[1-(4-isopropoxy-3-methyl-benzoyl)-4-piperidylidene]propan-2-one (10.2 g) 1H NMR (400 MHz, CDCl3) δ 7.25-7.17 (m, 2H), 6.81 (d, J=8.2 Hz, 1H), 6.12 (s, 1H), 4.60-4.51 (m, 1H), 3.66 (br d, 4H), 2.95 (br s, 2H), 2.50-2.33 (m, 2H), 2.19 (s, 6H), 1.34 (d, J=6.0 Hz, 6H). ESI-MS m/z calc. 315.18, found 316.0 (M+1)+; Retention time: 2.2 minutes (3 min run).

reactant | 1-diethoxyphosphorylpropan-2-one | 37 mmol, 7.1 mL | C(C)OP(=O)(OCC)CC(C)=O | C7H15O4P
reactant | 1-(4-isopropoxy-3-methyl-benzoyl)piperidin-4-one | 36 mmol, 10 g | C(C)(C)OC1=C(C=C(C(=O)N2CCC(CC2)=O)C=C1)C | C16H21NO3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
product | 1-[1-(4-isopropoxy-3-methyl-benzoyl)-4-piperidylidene]propan-2-one | 10.2 g | C(C)(C)OC1=C(C=C(C(=O)N2CCC(CC2)=CC(C)=O)C=C1)C | C19H25NO3
